US08304419B2
A solution of NaClO2 (21.7 g, 240 mmol) and NaH2PO4.2H2O (19.9 g, 144 mmol) in H2O (51 mL) was added to a stirred solution of 2-azido-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde (7.2 g, 24.0 mmol) and 2-methyl-2-butene (144 mL of a 2M solution in THF, 2887 mmol) in THF (72 mL) and t-BuOH (17 mL). The reaction mixture was stirred at RT for 1 h and extracted with EtOAc. The organic layer was dried (Na2SO4), filtered and dried to provide 2-azido-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid as a clear oil that was assumed to be quantitative and used without further purification. The above acid (1.40 mmol) was stirred in a solution of TFA (2.15 mL, 27.9 mmol) in CH2Cl2 (2 mL) for 1 h at RT. Sat'd NaHCO3 was added and the mixture was washed with EtOAc. The aqueous layer was isolated, acidified with 1N HCl and extracted thoroughly with EtOAc. The organic layer was dried (Na2SO4), filtered, concentrated, and triturated with hexanes and again with diethyl ether to provide the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.33 (br. s., 1H), 12.77 (br. s., 1H).

reactant | NaClO2 | 240 mmol, 21.7 g | [O-]Cl=O.[Na+]
reactant | 2-azido-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde | 24.0 mmol, 7.2 g | N(=[N+]=[N-])C=1N(C(=C(N1)Cl)C=O)COCC[Si](C)(C)C | C10H16ClN5O2Si
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | H2O | 51 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 72 mL | C1CCOC1 | C4H8O
solvent | t-BuOH | 17 mL | CC(C)(C)O | C4H10O
product | 2-azido-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | N(=[N+]=[N-])C=1N(C(=C(N1)Cl)C(=O)O)COCC[Si](C)(C)C | C10H16ClN5O3Si
